US08563575B2
A solution of N4-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}pyrimidine-4,5-diamine (80 mg) and CDI (39 mg) in THF (20 mL) was refluxed for 3 h. CDI (39 mg) was added to the mixture. After refluxing overnight, the mixture was concentrated in vacuo. The residual solid was washed with AcOEt to give 9-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}-7,9-dihydro-8H-purin-8-one (56 mg) as white crystals.

reactant | N4-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}pyrimidine-4,5-diamine | 80 mg | CN1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)NC2=NC=NC=C2N | C18H16N6O
reactant | CDI | 39 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | CDI | 39 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 9-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}-7,9-dihydro-8H-purin-8-one | 56 mg | CN1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)N2C1=NC=NC=C1NC2=O | C19H14N6O2
